US05441955
2-Nitroindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12, and substituting NMP for DMF, 5-nitroisatoic anhydride for 5-chloroisatoic anhydride and isatin for 5-fluoroisatin gave 495 mg (24%) of the title compound: mp 349° C. (dec); 1H NMR(CDCl3)δ 7.46-7.54 (m, 1H), 7.84-8.00 (m, 3H), 8.18-8.22 (m, 1H), 8.62-8.68 (m, 2H).

reactant | 5-nitroisatoic anhydride | [N+](=O)([O-])C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4N2O5
reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Nitroindolo[2,1-b]quinazoline-6,12-dione | 495 mg, 24% | [N+](=O)([O-])C=1C=C2C(N3C(=NC2=CC1)C(C1=CC=CC=C13)=O)=O | C15H7N3O4
